US07262185B2
A solution of 2-(4-fluorobenzoyl)-5-methylpyridine (3.0 g) and sodium azide (4.97 g) in DMSO (60 ml) was stirred for 24 hours at 90° C. To the reaction mixture was added water, and the mixture was extracted with diethylether. The organic layer was washed with water and saturated brine, dried over magnesium sulfate and concentrated under reduced pressure, and a solution of the residue (3.39 g) in THF (40 ml) was added dropwise to a suspension of aluminum lithium hydride (1.06 g) in THF (40 ml) at 0° C. The mixture was stirred at room temperature for 1 hour, and water (1.06 ml), 15% aqueous solution of sodium hydroxide (1.06 ml) and water (3.18 ml) were sequentially and slowly added dropwise to the solution at 0° C. The mixture was stirred for 64 hours at room temperature, magnesium sulfate was added to the mixture, and the precipitates were removed by filtration (Celite). The reaction mixture was concentrated under reduced pressure, and the residue was recrystallized, to give (4-aminophenyl)(5-methylpyridin-2-yl)methanol (2.07 g) as pale yellow crystals.

reactant | 2-(4-fluorobenzoyl)-5-methylpyridine | 3.0 g | FC1=CC=C(C(=O)C2=NC=C(C=C2)C)C=C1 | C13H10FNO
reactant | sodium azide | 4.97 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | DMSO | 60 ml | CS(=O)C | C2H6OS
product | (4-aminophenyl)(5-methylpyridin-2-yl)methanol | 2.07 g | NC1=CC=C(C=C1)C(O)C1=NC=C(C=C1)C | C13H14N2O
